US04009170
In a manner similar to that of Example 4, condensation of 1-hydrazino-3,4-dihydroisoquinoline (7 g.) and benzaldehyde (5.5 g.) and treatment of the reaction mixture with hydrochloric acid gave a solid, which was recrystallized from ethanol-ether, affording 1-(2-benzylidenehydrazino)-3,4-dihydroisoquinoline (I: X=C6H5, X'=Y=Y'=Z=Z'=H) hydrochloride (11.6 g., m.p. 226°-228° C.).

reactant | 1-hydrazino-3,4-dihydroisoquinoline | 7 g | N(N)C1=NCCC2=CC=CC=C12 | C9H11N3
reactant | benzaldehyde | 5.5 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrochloric acid | Cl | ClH
product | 1-(2-benzylidenehydrazino)-3,4-dihydroisoquinoline | C(C1=CC=CC=C1)=NNC1=NCCC2=CC=CC=C12 | C16H15N3
